US08557872B2
Step 1: Synthesis of 2-butoxy-4-trifluoromethyl-benzoic acid butyl ester
2-Hydroxy-4-trifluoromethyl-benzoic acid (755 mg) was reacted with butylbromide (0.96 ml) and K2CO3 (1.15 g) in DMF solution as described above to yield title compound.

reactant | 2-Hydroxy-4-trifluoromethyl-benzoic acid | 755 mg | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | butylbromide | 0.96 ml | C(CCC)Br | C4H9Br
reactant | K2CO3 | 1.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-butoxy-4-trifluoromethyl-benzoic acid butyl ester | C(CCC)OC(C1=C(C=C(C=C1)C(F)(F)F)OCCCC)=O | C16H21F3O3
